data/oMe_Silver.jsonl
{"reaction_id": "NR-135_1-c1ccc(Cl)cc1_2-OC_3-Br_4-CC(C)C","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(c1ccc(Cl)cc1)(OC)=C(Br)C(=O)(CC(C)C)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(c1ccc(Cl)cc1)(OC)=C(Br)C(O)(CC(C)C)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(c1ccc(Cl)cc1)(OC)=C(Br)C(=[O+][Ce-](Cl)(Cl)Cl)(CC(C)C)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(Cl)cc1)(OC)=C(Br)C(O[Ce-](Cl)(Cl)Cl)(CC(C)C)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(Cl)cc1)(OC)=C(Br)C(O)(CC(C)C)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
{"reaction_id": "NR-106_1-c1ccc(F)cc1_2-C1CC1_3-c1ccc([N+](=O)[O-])cc1_4-C=C(C)C","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(c1ccc(F)cc1)(C1CC1)[N+](=O)[O-]","C(c1ccc([N+](=O)[O-])cc1)(C=C(C)C)=O","[OH-]"],"products_smiles": ["C(c1ccc([N+](=O)[O-])cc1)(C=C(C)C)(O)C(c1ccc(F)cc1)(C1CC1)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)(C1CC1)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc([N+](=O)[O-])cc1)(C=C(C)C)([O-])C(c1ccc(F)cc1)(C1CC1)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc([N+](=O)[O-])cc1)(C=C(C)C)(O)C(c1ccc(F)cc1)(C1CC1)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
{"reaction_id": "NR-033_1-c1ccc(C)cc1_2-C#N_3-Cl_4-Br_5-CC_6-C#N_7-C","name": "Buchner Ring Expansion","level": "medium","reactants_smiles": ["N#[N+][CH-]C(=O)c1ccc(C)cc1","c1(C#N)c(Cl)c(Br)c(CC)c(C#N)c1(C)"],"products_smiles": ["[CH](C(=O)c1ccc(C)cc1)1C(C#N)=C(Cl)C(Br)=C(CC)C(C#N)=C1C"],"conditions": "heat/Metal","mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH]C(=O)c1ccc(C)cc1","step_weight": 0,"rationale": "Heating with metal catalyst promotes nitrogen extrusion from the diazo group, forming a carbene stabilized by adjacent carbonyl resonance."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)c1ccc(C)cc1)1C(C#N)2C(Cl)=C(Br)C(CC)=C(C#N)C2(C)1","step_weight": 0,"rationale": "The electrophilic carbene adds to the electron-rich aromatic π-system, favored by carbene’s high reactivity and aromatic nucleophilicity."},{"step": 3,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "[CH](C(=O)c1ccc(C)cc1)1C(C#N)=C(Cl)C(Br)=C(CC)C(C#N)=C1C","step_weight": 0,"rationale": "The strained bicyclic intermediate undergoes thermally allowed electrocyclic ring expansion to a more stable conjugated seven-membered ring."}],"description": "Under thermal and metal catalysis, the diazo ketone loses nitrogen to form a reactive carbene, which adds to the aromatic ring. The resulting bicyclic intermediate undergoes a pericyclic ring expansion, yielding the seven-membered ring product characteristic of the Buchner reaction."}
